US08309718B2
Step 2. 3-(4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl)-4-(piperidin-4-yl)butanenitrile
A mixture of tert-butyl 4-{2-[4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl]-3-cyanopropyl}piperidine-1-carboxylate (0.030 g, 0.000065 mol) and 0.5 mL of TFA was stirred at room temperature for 1 h. After being evaporated to dryness, the residue was used directly in next step.

reactant | tert-butyl 4-{2-[4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl]-3-cyanopropyl}piperidine-1-carboxylate | 0.000065 mol, 0.030 g | ClC1=NC=C(C(=N1)C=1C=NN(C1)C(CC1CCN(CC1)C(=O)OC(C)(C)C)CC#N)OC | C22H29ClN6O3
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl)-4-(piperidin-4-yl)butanenitrile | ClC1=NC=C(C(=N1)C=1C=NN(C1)C(CC#N)CC1CCNCC1)OC | C17H21ClN6O
